US09102671B2
To a stirred suspension of (S,E)-N-(2-bromo-5-fluorobenzylidene)-2-methylpropane-2-sulfinamide (I-44) (153 mg, 0.50 mmol) and indium powder (230 mg, 2.0 mmol) in saturated NaBr (10 mL, aq) was added allyl bromide (169 μL, 2.0 mmol). After stirring 36 hours the reaction mixture was charged with saturated aqueous NaHCO3 and stirred 30 minutes. The mixture was extracted with EtOAc and combined extracts were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography with EtOAc/Hex (5-35%) as eluent to yield the (S)-N-((R)-1-(2-bromo-5-fluorophenyl)but-3-en-1-yl)-2-methylpropane-2-sulfinamide (I-45A) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.52 (dd, J=5.3, 8.8 Hz, 1 H), 7.14 (dd, J=3.1, 9.8 Hz, 1 H), 6.88 (ddd, J=3.1, 7.7, 8.7 Hz, 1 H), 5.77 (dddd, J=6.1, 8.2, 10.9, 16.6 Hz, 1 H), 5.28-5.16 (m, 2 H), 4.98-4.89 (m, 1 H), 3.74 (s, 1 H), 2.76-2.63 (m, 1 H), 2.39 (dt, J=8.3, 14.2 Hz, 1 H), 1.24 (s, 9 H). 19F NMR (376 MHz, CDCl3) δ −113.87. MS m/z 348.0, 350.0 (M+1)+.

reactant | (S,E)-N-(2-bromo-5-fluorobenzylidene)-2-methylpropane-2-sulfinamide | 0.50 mmol, 153 mg | BrC1=C(\C=N\[S@@](=O)C(C)(C)C)C=C(C=C1)F | C11H13BrFNOS
reactant | indium | 2.0 mmol, 230 mg | [In] | In
reactant | allyl bromide | 2.0 mmol, 169 μL | C(C=C)Br | C3H5Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NaBr | 10 mL | [Na+].[Br-]
product | (S)-N-((R)-1-(2-bromo-5-fluorophenyl)but-3-en-1-yl)-2-methylpropane-2-sulfinamide | BrC1=C(C=C(C=C1)F)[C@@H](CC=C)N[S@@](=O)C(C)(C)C | C14H19BrFNOS
